US04182776
Ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate
A solution of 10.0 g of 6-(2-naphthyloxy)-1-hexanol O-methanesulfonate and 9.7 g of ethyl 4-aminobenzoate in 50 ml of hexamethylphosphoramide is heated at 110° C. for 16 hours. The solution is cooled, diluted with water, filtered and the solid washed with ethanol and water to give 7.7 g of product. Recrystallization from ethanol and once from acetone-hexane gives crystals, mp 109°-110° C.

reactant | 6-(2-naphthyloxy)-1-hexanol O-methanesulfonate | 10.0 g | CS(=O)(=O)OCCCCCCOC1=CC2=CC=CC=C2C=C1 | C17H22O4S
reactant | ethyl 4-aminobenzoate | 9.7 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate | 7.7 g | C1=C(C=CC2=CC=CC=C12)OCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C25H29NO3
